US09024041B2
Intermediate A22: 3-tert-Butyl-1-(3-chloro-4-((triisopropylsilyloxy)methyl)phenyl)-1H-pyrazol-5-amine
To a solution of 3-(tert-butyl)-1-(3-chloro-4-(hydroxymethyl)phenyl)-1H-pyrazol-5-amine (1.15 g, 70% purity, 2.9 mmol) in dry THF (10 mL) under N2 was added imidazole (320 mg, 4.7 mmol) and chlorotriisopropylsilane (970 μL, 870 mg 4.5 mmol) and the reaction mixture maintained at RT for 18 hr. The resulting mixture was diluted with DCM (5.0 mL) and was treated with an additional aliquot of chlorotriisopropylsilane (970 μL, 870 mg, 4.5 mmol) and after a further 5 hr with imidazole (320 mg, 4.7 mmol). After 20 hr the reaction mixture was treated for a third time with chlorotriisopropylsilane (200 μL, 180 mg, 0.90 mmol) and imidazole (100 mg, 1.6 mmol) and after 3 days was evaporated in vacuo. The residue was taken up into EtOAc (20 mL) and was washed with water (20 mL) and brine (10 mL) and then dried and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, EtOAc in isohexane, 0-100%, gradient elution) and then by SCX capture and release to afford a blue oily liquid which comprised of a mixture of starting material and the desired product. This mixture was taken up into THF (1.0 mL) and was treated with imidazole (50 mg, 0.74 mmol) chlorotriisopropylsilane (140 μL, 130 mg, 0.65 mmol) and maintained at RT for 24 hr and then evaporated in vacuo. The residue was taken up EtOAc (10 mL) and was washed with water (10 mL) and brine (10 mL) and then dried and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, 40 g, EtOAc in isohexane, 0-100%, gradient elution) to afford the title compound, Intermediate A22 as a white solid (300 mg, 24%); Rt 3.42 min (Method 2); m/z 436 (M+H)+, (ES+).

reactant | 3-(tert-butyl)-1-(3-chloro-4-(hydroxymethyl)phenyl)-1H-pyrazol-5-amine | 2.9 mmol, 1.15 g | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC(=C(C=C1)CO)Cl | C14H18ClN3O
reactant | imidazole | 4.7 mmol, 320 mg | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 4.5 mmol, 970 μL, 870 mg | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | chlorotriisopropylsilane | 4.5 mmol, 970 μL, 870 mg | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | imidazole | 4.7 mmol, 320 mg | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 0.90 mmol, 200 μL, 180 mg | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | imidazole | 1.6 mmol, 100 mg | N1C=NC=C1 | C3H4N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 3-tert-Butyl-1-(3-chloro-4-((triisopropylsilyloxy)methyl)phenyl)-1H-pyrazol-5-amine | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC(=C(C=C1)CO[Si](C(C)C)(C(C)C)C(C)C)Cl | C23H38ClN3OSi
